* C:\Users\Jimbles\ScouseTom\src\schematics\Output_Impedance_Tester\sim\TIA_example.asc
R1 N003 0 1e8 tol=1 pwr=0.1
I1 0 N003 100µ AC 100u 0
R2 TIA_out N001 1000
R3 N001 N003 {R}
XU1 0 N001 Vdd Vee TIA_out ADA4522
V1 Vdd 0 5
V2 0 Vee 5
C1 TIA_out N001 .1n
XU2 TIA_out N002 Vdd Vee Amp_out ADA4522
R4 N002 0 2k
R5 Amp_out N002 80k
.op
.inc ..\..\..\..\lib\spice\ada4610.cir
.step param R 1 1000000 100000
;.ac dec 10 1 1MEG
.inc ..\..\..\..\lib\spice\ADA4077.cir
* set U1 value to ADA4610
* set U1 value to ADA4077
.inc ..\..\..\..\lib\spice\ada4528.cir
* set U1 value to ADA4528
;.tran 10m
.inc ..\..\..\..\lib\spice\ADA4522.cir
* set U1 value to ADA4522
.backanno
.end
